US07777047B2
2-(2-{4-methyl-7-[methyl(2-thienylsulfonyl)amino]-1H-indol-2-yl}-4,5-dihydro-1,3-thiazol-5-yl)acetamide
To a mixture of (2-{4-methyl-7-[methyl(2-thienylsulfonyl)amino]-1H-indol-2-yl}-4,5-dihydro-1,3-thiazol-5-yl)acetic acid (0.25 g), 1H-1,2,3-benzotriazol-1-ol-ammonia complex (0.11 g) and N,N-dimethylformamide (15 mL) was added N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride (0.14 g) under ice-cooling, and the mixture was stirred from under ice-cooling to room temperature for 2 days. The reaction solution was diluted with ethyl acetate, washed with water, aqueous sodium hydrogencarbonate solution and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained residue was subjected to silica gel column chromatography (ethyl acetate:hexane=9:1-10:0), and the obtained colorless oil was crystallized from ethyl acetate-hexane to give the title compound (228 mg, yield: 92%) as colorless crystals. MS: 449 (MH+). melting point 120-121° C.

reactant | (2-{4-methyl-7-[methyl(2-thienylsulfonyl)amino]-1H-indol-2-yl}-4,5-dihydro-1,3-thiazol-5-yl)acetic acid | 0.25 g | CC1=C2C=C(NC2=C(C=C1)N(S(=O)(=O)C=1SC=CC1)C)C=1SC(CN1)CC(=O)O | C19H19N3O4S3
reactant | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
reactant | N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride | 0.14 g | Cl.CN(CCCN=C=NCC)C
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(2-{4-methyl-7-[methyl(2-thienylsulfonyl)amino]-1H-indol-2-yl}-4,5-dihydro-1,3-thiazol-5-yl)acetamide | 228 mg, yield: 92% | CC1=C2C=C(NC2=C(C=C1)N(S(=O)(=O)C=1SC=CC1)C)C=1SC(CN1)CC(=O)N | C19H20N4O3S3
